US09303035B2
Step 2: (R)-5-(3-Chlorophenyl)-6-(2,3-dihydroxypropyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
A mixture of 6-(bromomethyl)-5-(3-chlorobenzoyl)-1,3-dimethylpyrimidine-2,4(1H,3H)-dione (2 g, 5.38 mmol), (R)-3-aminopropane-1,2-diol (0.490 g, 5.38 mmol) and triethylamine (0.750 ml, 5.38 mmol) in EtOH (17.94 ml) was heated under microwave irradiation at 100° C. for 1 hour. The mixture was evaporated under vacuum and the residue partitioned between DCM (20 mL) and 1M HCl (20 mL). The phases were separated and the organic phase was washed with water (2×20 mL). The organic phase was passed through a hydrophobic frit and evaporate under vacuum to afford the title compound.

reactant | 6-(bromomethyl)-5-(3-chlorobenzoyl)-1,3-dimethylpyrimidine-2,4(1H,3H)-dione | 5.38 mmol, 2 g | BrCC1=C(C(N(C(N1C)=O)C)=O)C(C1=CC(=CC=C1)Cl)=O | C14H12BrClN2O3
reactant | (R)-3-aminopropane-1,2-diol | 5.38 mmol, 0.490 g | NC[C@H](CO)O | C3H9NO2
reactant | triethylamine | 5.38 mmol, 0.750 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 17.94 ml | CCO | C2H6O
product | (R)-5-(3-Chlorophenyl)-6-(2,3-dihydroxypropyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | ClC=1C=C(C=CC1)C=1N(C=C2N(C(N(C(C21)=O)C)=O)C)C[C@H](CO)O | C17H18ClN3O4
